* Auto-generated SPICE netlist (NO TEXT OCR USED)

* SAME_NODE_SKIPPED Resistor both_on=0
* SAME_NODE_SKIPPED Resistor both_on=0
* SAME_NODE_SKIPPED Resistor both_on=0
C1 n2 0 1u
I1 0 n1 DC 1m
I2 0 n1 AC 1m
V1 n1 0 DC 5
D1 n2 0 Ddefault
.model Ddefault D

.op
.end
